US09359381B2
Step 5: 10-(4-Chlorothiazol-2-yl)-1,3-dimethyl-5-(1-methyl-1H-pyrazol-3-yl)-7,8,9,10-tetrahydropyrimido[4,5-a]indolizine-2,4(1H,3H)-dione
A suspension of 10-(4-chlorothiazol-2-yl)-1,3-dimethyl-5-(1-methyl-1H-pyrazol-3-yl)-7,8-dihydropyrimido[4,5-a]indolizine-2,4(1H,3H)-dione (25 mg, 0.058 mmol) and 10% platinum on carbon (12 mg, 6.15 μmol) in ethanol (2.2 ml) and THF (6.6 ml) was stirred under an atmosphere of hydrogen for 7 days. The mixture was filtered and the residue rinsed thoroughly with ethanol and the combined filtrates evaporated under vacuum. Purification by chromatography on silica, eluting with 80% EtOAc/hexane afforded a crude material which was triturated with diethyl ether to afford the title compound.

reactant | 10-(4-chlorothiazol-2-yl)-1,3-dimethyl-5-(1-methyl-1H-pyrazol-3-yl)-7,8-dihydropyrimido[4,5-a]indolizine-2,4(1H,3H)-dione | 0.058 mmol, 25 mg | ClC=1N=C(SC1)C1=CCCN2C(=C3C(=C12)N(C(N(C3=O)C)=O)C)C3=NN(C=C3)C | C19H17ClN6O2S
catalyst | platinum on carbon | 6.15 μmol, 12 mg | [Pt] | Pt
solvent | ethanol | 2.2 ml | C(C)O | C2H6O
solvent | THF | 6.6 ml | C1CCOC1 | C4H8O
product | 10-(4-Chlorothiazol-2-yl)-1,3-dimethyl-5-(1-methyl-1H-pyrazol-3-yl)-7,8,9,10-tetrahydropyrimido[4,5-a]indolizine-2,4(1H,3H)-dione | ClC=1N=C(SC1)C1CCCN2C(=C3C(=C12)N(C(N(C3=O)C)=O)C)C3=NN(C=C3)C | C19H19ClN6O2S
